US06331539B1
α-Toluenesulfonyl chloride (0.5 g in 10 ml dichloromethane, 2.7 mmol) was added dropwise to a stirring solution of 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine (0.75 g, 2.4 mmol), dichloromethane (115 ml), and pyridine (1 ml). The reaction was maintained at room temperature for 4 hours and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 9:1 dichloromethane/methanol, Rf 0.16). The fractions containing product were combined and washed with saturated aqueous bicarbonate. The organic layer was dried (MgSO4), filtered, and concentrated. A final recrystallization from dichloromethane/diethyl ether provided 0.65 g of N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]phenylmethanesulfonamide as a white crystalline solid, m.p. 197.0-199.5° C. 1H NMR (300 MHz, DMSO-d6) δ 8.02 (d, J=7.6 Hz, 1H), 7.62 (dd, J=8.3, 1.1 Hz, 1H), 7.42 (dt, J=7.5, 1.1 Hz, 1H), 7.35-7.23 (m, 7H), 7.12 (t, J=5.4 Hz, 1H), 6.46 (broad s, 2H), 4.49 (t, J=7.5 Hz, 2H), 4.29 (s, 2H), 2.91 (m, 4H), 1.83-1.42 (m, 8H), 0.96 (t, J=7.4 Hz, 3H);IR (KBr) 3460, 3293, 3226, 3158, 2955, 2931, 2867, 1632, 1586, 1534, 1482, 1437, 1389, 1331, 1152, 1094, 752, 700 cm−1; MS (EI) m/e 465.2204 (465.2198 calcd for C25H31N5O2S); Anal calcd for C25H31N5O2S: C, 64.49; H, 6.71; N, 15.04. 64.15; H, 6.71; N, 15.00.

reactant | α-Toluenesulfonyl chloride | 2.7 mmol, 10 ml, 0.5 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | 1-(4-aminobutyl)-2-butyl-1H-imidazo[4,5-c]quinoline-4-amine | 2.4 mmol, 0.75 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C18H25N5
reactant | dichloromethane | 115 ml | ClCCl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl) butyl]phenylmethanesulfonamide | 0.65 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)CC2=CC=CC=C2)CCCC | C25H31N5O2S
